US04352805
EXAMPLE 28 1-[2-{(1-methy-6,7-dimethoxy-3,4-dihydro-1H-2-benzothiopyran-1-yl)methoxy}-ethyl]piperidine.
A mixture of 2-[[1-methyl-6,7-dimethoxy-3,4-dihydro-1H-2-benzothiopyran-1-yl]methoxy]ethanol-4-nitrobenzenesulfonate and piperidine is stirred at room temperature in THF. The mixture is then partitioned between methylene chloride and aqueous sodium carbonate. The title compound is isolated by chromatography and is crystallized.

reactant | 2-[[1-methyl-6,7-dimethoxy-3,4-dihydro-1H-2-benzothiopyran-1-yl]methoxy]ethanol 4-nitrobenzenesulfonate | CC1(SCCC2=C1C=C(C(=C2)OC)OC)COCCO.[N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)[O-]
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | THF | C1CCOC1 | C4H8O
product | 1-[2-{(1-methy-6,7-dimethoxy-3,4-dihydro-1H-2-benzothiopyran-1-yl)methoxy}-ethyl]piperidine | CC1(SCCC2=C1C=C(C(=C2)OC)OC)COCCN2CCCCC2 | C20H31NO3S
